US07211572B2
To a solution of dimethyl 2-benzyloxy-3-hydroxy-2-butenedicarboxylate (3.0 g) in methanol (60 ml) were added sodium methoxide (1.28 g) and formamidine hydrochloride (953 mg) under ice-cooling, and the mixture was stirred at 70° C. for 1.5 hr. The reaction solvent was evaporated under reduced pressure, and water was added to dissolve the residue. 5% Aqueous potassium hydrogen sulfate solution was added, and the precipitated solid was collected by filtration, washed with water and dried to give methyl 5-benzyloxy-6-hydroxypyrimidine-4-carboxylate (1.1 g).

reactant | dimethyl 2-benzyloxy-3-hydroxy-2-butenedicarboxylate | 3.0 g | C(C1=CC=CC=C1)OC(C(C(=O)OC)C(=O)OC)=C(C)O | C15H18O6
reactant | sodium methoxide | 1.28 g | C[O-].[Na+]
reactant | formamidine hydrochloride | 953 mg | Cl.C(=N)N
solvent | methanol | 60 ml | CO | CH4O
product | methyl 5-benzyloxy-6-hydroxypyrimidine-4-carboxylate | 1.1 g | C(C1=CC=CC=C1)OC=1C(=NC=NC1O)C(=O)OC | C13H12N2O4
